US07816557B2
Step C. Racemic 3-{4-[1-(4′-Trifluoromethyl-biphenyl-4-yloxy)-propyl]-benzoylamino}-propionic acid
To a mixture of 3-{4-[1-(4′-Trifluoromethyl-biphenyl-4-yloxy)-propyl]-benzoylamino}-propionic acid methyl ester (60 mg, 0.12 mmol) in methanol (2 mL) is added sodium hydroxide (5 N aqueous, 0.5 mL) and stirred for 5 hours. The reaction mixture is concentrated and acidified by 5 N HCl (0.5 mL), extracted with ethyl acetate. Combined organic layers are washed with water and brine, dried over sodium sulfate. Concentration gives the title compound (54 mg). MS (ES): 472.2 [M+H]+.

reactant | 3-{4-[1-(4′-Trifluoromethyl-biphenyl-4-yloxy)-propyl]-benzoylamino}-propionic acid methyl ester | 0.12 mmol, 60 mg | COC(CCNC(C1=CC=C(C=C1)C(CC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C27H26F3NO4
reactant | sodium hydroxide | 5 N, 0.5 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | Racemic 3-{4-[1-(4′-Trifluoromethyl-biphenyl-4-yloxy)-propyl]-benzoylamino}-propionic acid | 54 mg | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)OC(CC)C1=CC=C(C(=O)NCCC(=O)O)C=C1)(F)F | C26H24F3NO4
